US09216999B2
1-(4-{[(2,2,2-Trifluoroethyl)amino]methyl}cyclohexyl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidine-2,4(3H,7H)-dione
trans-4-(2,4-Dioxo-7-{[2-(trimethylsilyl)ethoxy]methyl}-2,3,4,7-tetrahydro-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-1-yl)cyclohexanecarbaldehyde (30.4 mg, 0.0680 mmol) in a mixture of methanol (0.5 mL) and acetic acid (50 μL) was stirred with 2,2,2-trifluoroethanamine hydrochloride (12.1 mg, 0.089 mmol) and 2-picoline borane (9.50 mg, 0.089 mmol) at room temperature for 1 day. After addition of 1 M aqueous sodium hydroxide, the reaction mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel thin layer chromatography (ethyl acetate/hexane=1/1 (v/v)) to give the title compound as a colorless solid (32.3 mg, yield 90%).

reactant | trans-4-(2,4-Dioxo-7-{[2-(trimethylsilyl)ethoxy]methyl}-2,3,4,7-tetrahydro-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-1-yl)cyclohexanecarbaldehyde | 0.0680 mmol, 30.4 mg | O=C1NC(C2=C(N1[C@@H]1CC[C@H](CC1)C=O)C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)=O | C22H30N4O4Si
reactant | 2,2,2-trifluoroethanamine hydrochloride | 0.089 mmol, 12.1 mg | Cl.FC(CN)(F)F
reactant | 2-picoline borane | 0.089 mmol, 9.50 mg | B.N1=C(C=CC=C1)C
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | methanol | 0.5 mL | CO | CH4O
solvent | acetic acid | 50 μL | C(C)(=O)O | C2H4O2
product | 1-(4-{[(2,2,2-Trifluoroethyl)amino]methyl}cyclohexyl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidine-2,4(3H,7H)-dione | 32.3 mg, yield 90% | FC(CNCC1CCC(CC1)N1C(NC(C2=C1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)=O)=O)(F)F | C24H34F3N5O3Si
